US04737511
4-(4-Fluorophenyl)-1,5-dihydro-1-(4-methoxyphenyl)-2H-pyrrol-2-one
p-Anisidine (1793 g, 14.6 mol) and ethyl 4-bromo-3-(4-fluorophenyl)-2-butenoate (1393 g, 4.9 mol) are combined in ethanol (6 L), and the mixture is stirred for 24 hr. The precipitate which forms is collected by filtration, washed with ethanol, and dried under vacuum for 24 hr at 60° C. to give the title compound.

reactant | p-Anisidine | 14.6 mol, 1793 g | COC1=CC=C(C=C1)N | C7H9NO
reactant | ethyl 4-bromo-3-(4-fluorophenyl)-2-butenoate | 4.9 mol, 1393 g | BrCC(=CC(=O)OCC)C1=CC=C(C=C1)F | C12H12BrFO2
solvent | ethanol | 6 L | C(C)O | C2H6O
product | 4-(4-Fluorophenyl)-1,5-dihydro-1-(4-methoxyphenyl)-2H-pyrrol-2-one | FC1=CC=C(C=C1)C1=CC(N(C1)C1=CC=C(C=C1)OC)=O | C17H14FNO2
